US04442115
A mixture of ethyl 1-(4-methoxybenzyl)-1H-tetrazole-5-carboxylate and ethyl 2-(4-methoxybenzyl)-2H-tetrazole-5-carboxylate (11.7 g) (prepared as described below and still containing a little sulpholane) was dissolved in hot ethanol (165 ml) and the solution was treated with a solution of potassium hydroxide (4.5 g) in water (13.5 ml). The mixture was cooled and the white crystalline solid which separated was filtered off to give potassium 2-(4-methoxybenzyl)-2H-tetrazole-5-carboxylate (4.3 g), m.p. 271°-273° C. (with decomposition). [The pure salt, obtained as a hemihydrate after recrystallisation from water, had a melting point of 273°-274° C. (with decomposition)].

reactant | ethyl 1-(4-methoxybenzyl)-1H-tetrazole-5-carboxylate | COC1=CC=C(CN2N=NN=C2C(=O)OCC)C=C1 | C12H14N4O3
reactant | ethyl 2-(4-methoxybenzyl)-2H-tetrazole-5-carboxylate | 11.7 g | COC1=CC=C(CN2N=C(N=N2)C(=O)OCC)C=C1 | C12H14N4O3
reactant | sulpholane | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | potassium hydroxide | 4.5 g | [OH-].[K+]
solvent | ethanol | 165 ml | C(C)O | C2H6O
solvent | water | 13.5 ml | O | H2O
product | potassium 2-(4-methoxybenzyl)-2H-tetrazole-5-carboxylate | 4.3 g | COC1=CC=C(CN2N=C(N=N2)C(=O)[O-])C=C1.[K+] | InChI=1S/C10H10N4O3.K/c1-17-8-4-2-7(3-5-8)6-14-12-9(10(15)16)11-13-14;/h2-5H,6H2,1H3,(H,15,16);/q;+1/p-1
